US07977340B2
A stirred mixture of the 1-(5,7-dibromo-benzothiazol-2-yl-3-ethyl urea (2.62 g, 0.00687 mol) and Dichlorobis(triphenylphosphine)-palladium (0.48 g 0.000687 mol), under nitrogen, was treated in one portion, via a syringe, with 2-pyridyl zinc bromide solution (0.5M solution in THF, 7.66 g, 0.0344 mol). The reaction mixture was heated, with stirring, at 55° C. for 18 hours, allowed to cool and poured into 500 ml of water containing ˜5 ml of conc hydrochloric acid. The suspension was stirred and the solid filtered off, washed with water, followed by 20 ml of 1:1 DCM/Methanol mixture to give the crude 1-(5-Bromo-7-pyridin-2-yl-benzothiazol-2-yl)-3-ethyl-urea (1.43 g). This was purified by “flash” silica chromatography using 0 to 100% hexane/ethyl acetate followed by 0 to 100% methanol in ethyl acetate to elute the required product as a beige solid (1.1 g).

reactant | 5,7-dibromo-benzothiazol-2-yl-3-ethyl urea | 0.00687 mol, 2.62 g | BrC=1C=C(C2=C(N=C(S2)NC(=O)NCC)C1)Br | C10H9Br2N3OS
reactant | 2-pyridyl zinc bromide | 0.0344 mol, 0.5M, 7.66 g | [Br-].N1=C(C=CC=C1)[Zn+]
reactant | hydrochloric acid | Cl | ClH
catalyst | Dichlorobis(triphenylphosphine)-palladium | 0.000687 mol, 0.48 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 500 ml | O | H2O
product | 1-(5-Bromo-7-pyridin-2-yl-benzothiazol-2-yl)-3-ethyl-urea | 1.43 g | BrC=1C=C(C2=C(N=C(S2)NC(=O)NCC)C1)C1=NC=CC=C1 | C15H13BrN4OS
